* Output Impedance Measurement

.lib /home/wshh/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.option scale=1e-6

* Power supplies
VDD vdd GND 1.8
VSS vss GND 0

* Bias inputs at common-mode
VCM vcm GND 0.9

* Op-amp
x1 vout vdd vcm vcm vss opamp_single_stage

* Test current source at output
Itest vout GND AC 1

* Op-amp subcircuit
.subckt opamp_single_stage VOUT VDD VIN_N VIN_P VSS
XM3 VDD net1 net1 VDD sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1 m=1
XM4 VOUT net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1 m=1
VB2 net3 GND 0.7
XM9 net2 net3 VSS GND sky130_fd_pr__nfet_01v8 L=0.5 W=5 nf=1 m=1
XM1 net1 VIN_P net2 GND sky130_fd_pr__nfet_01v8 L=0.5 W=5 nf=1 m=1
XM2 VOUT VIN_N net2 GND sky130_fd_pr__nfet_01v8 L=0.5 W=5 nf=1 m=1
.ends

.GLOBAL GND

.control
op
ac dec 10 1 1G
let zout = v(vout)/1
plot mag(zout) xlog title 'Output Impedance vs Frequency'
print mag(zout)[0]
echo "Output impedance at low frequency (should be < 1k ohm)"
.endc

.end
